US04515948
A suspension of 1.7 g. of 2',6'-bis(allyloxy)-4'-[(methylsulfonyl)-acetyl]-acetanilide in 20 ml. of ethanol and 20 ml. of water was treated with a solution of 0.40 g. of sodium borohydride in 5 ml. of water. There was also added 0.1 g. of sodium hydroxide. The mixture was stirred for 3 hours at room temperature and evaporated to dryness. The residue was taken up in water, removed by filtration under vacuum, dried and recrystallized from ethyl acetate/petroleum ether, whereby there was obtained 2',6'-bis(allyloxy)-4'-[1-hydroxy-2-(methylsulfonyl)ethyl]-acetanilide having a melting point of 162° C.

reactant | 2',6'-bis(allyloxy)-4'-[(methylsulfonyl)-acetyl]-acetanilide | C(C=C)OC1=C(NC(C)=O)C(=CC(=C1)C(CS(=O)(=O)C)=O)OCC=C | C17H21NO6S
reactant | ethanol | C(C)O | C2H6O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2',6'-bis(allyloxy)-4'-[1-hydroxy-2-(methylsulfonyl)ethyl]-acetanilide | C(C=C)OC1=C(NC(C)=O)C(=CC(=C1)C(CS(=O)(=O)C)O)OCC=C | C17H23NO6S
